US04029780
7-Chloro-3-(1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide
To a stirred solution of 3.4 g of anhydrous piperazine in 25 ml of methanol is added 5.0 g of 3,7-dichloro-2H-1,2,4-benzothiadiazine 1,1-dioxide, while the mixture is cooled in an ice bath. After the addition, the mixture is stirred at room temperature for 3 hours. The crystalline precipitate is collected by suction filtration and treated with a mixture of 2 ml of concentrated hydrochloric acid and 40 ml of water. After removal of the insoluble materials by suction filtration, the filtrate is adjusted to a pH 8.0 with a dilute aqueous sodium hydroxide solution to give 3.9 g of the desired product, m.p. 292°-295° C. (decomposition).

reactant | piperazine | 3.4 g | N1CCNCC1 | C4H10N2
reactant | 3,7-dichloro-2H-1,2,4-benzothiadiazine 1,1-dioxide | 5.0 g | ClC=1NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
solvent | methanol | 25 ml | CO | CH4O
product | 7-Chloro-3-(1-piperazinyl)-2H-1,2,4-benzothiadiazine 1,1-dioxide | 3.9 g | ClC1=CC2=C(N=C(NS2(=O)=O)N2CCNCC2)C=C1 | C11H13ClN4O2S
